US04822375
Preparation of the compound No. 17 of Table I 5,6-Bis(trimethylsilyloxy)-2-methylindole
5,6-Dihydroxy-2-methylindole (90 mg; 5.5×10-4 mole) and N,O-bis(trimethylsilyl)acetamide (220 mg; 1.1×10-3 mole) are stirred at room temperature until solubilization is complete. The product obtained is purified on a column of silica 60 (eluent: toluene/CH2Cl2, 50:50). The derivative 17 is obtained (0.14 g; 83% yield).

reactant | 5,6-Dihydroxy-2-methylindole | 5.5×10-4 mole, 90 mg | OC=1C=C2C=C(NC2=CC1O)C | C9H9NO2
reactant | N,O-bis(trimethylsilyl)acetamide | 1.1×10-3 mole, 220 mg | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
product | 5,6-Bis(trimethylsilyloxy)-2-methylindole | 83% yield | C[Si](OC=1C=C2C=C(NC2=CC1O[Si](C)(C)C)C)(C)C | C15H25NO2Si2
